US04962108
1-cyclopropyl-7-(6,8-diazabicyclo[3.2.2]non-6-yl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
A solution of 1.41 g (5.0 mmol) of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, 1.10 (5.5 mmol) of 6,8-diazabicyclo[3.2.2]nonane, dihydrochloride, 2.26 ml (15 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene, and 30 ml of acetonitrile was heated under reflux for 4 hr. After cooling to room temperature, the precipitated solid was collected to give 0.97 g of the title compound, mp 255°-258° dec.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 5.0 mmol, 1.41 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
reactant | 6,8-diazabicyclo[3.2.2]nonane, dihydrochloride | Cl.Cl.C12CCCC(NC1)CN2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 15 mmol, 2.26 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-cyclopropyl-7-(6,8-diazabicyclo[3.2.2]non-6-yl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.97 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1C2CCCC(C1)NC2)F)=O)C(=O)O | C19H21FN4O3
